US07465731B2
Ethyl (2E)-3-(5-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate
To a solution of tert-butyl (3R)-3-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-piperidinecarboxylate (6.26 g) in a mixture of 1,4-dioxane (25 mL) and MeOH (5 mL) was added 4N hydrogen chloride solution in ethyl acetate (30 mL) in water bath.

reactant | tert-butyl (3R)-3-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-piperidinecarboxylate | 6.26 g | C(C)OC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)=O | C19H28N4O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Ethyl (2E)-3-(5-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate | C1(CCCCC1)CN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C20H30N4O2
